US04612321
In 40 ml of acetonitrile was dissolved 516 mg of thiourea. In the solution was suspended 2.5 g of 2-bromo-1-(4-methoxyphenyl)-2-(3-pyridyl)-ethanone hydrobromide. To the suspension was added dropwise slowly 0.95 ml of triethylamine while stirring. The mixture was stirred for 3 hours at a refluxing temperature, which was then left standing for cooling. Precipitating crystals were collected by filtration. The crystals were washed with an aqueous solution of saturated hydrogen carbonate, water, ethanol and ethylether in that order, followed by drying. The crystals were recrystallised from tetrahydrofuran to yield 1.5 g (90%) of 2-amino-4-(4-methoxyphenyl)-5-(3-pyridyl)-1,3-thiazol, m.p. 265°-266° C.

reactant | thiourea | 516 mg | NC(=S)N | CH4N2S
reactant | 2-bromo-1-(4-methoxyphenyl)-2-(3-pyridyl)-ethanone hydrobromide | 2.5 g | Br.BrC(C(=O)C1=CC=C(C=C1)OC)C=1C=NC=CC1
reactant | triethylamine | 0.95 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 2-amino-4-(4-methoxyphenyl)-5-(3-pyridyl)-1,3-thiazol | 1.5 g, 90% | NC=1SC(=C(N1)C1=CC=C(C=C1)OC)C=1C=NC=CC1 | C15H13N3OS
